US05703240
trans-6-(3-Bromo-phenyl)-5-nitro-piperidin-2-one
A mixture of 3-bromobenzaldehyde (82.20 g), methyl-4-nitrobutyrate (65.3 g) and ammonium acetate (68.5 g) in ethanol (400 ml), was heated to reflux for 18 hours. The solvent was removed in vacuo and the resultant mixture triturated with ethanol (400 ml) to give the title compound as a white solid (97.46 g). NMR (CDCl3) δ 2.30 (1H, m), 2.55 (3H, m), 4.70 (1H, m), 5.25 (1H, m), 6.7 (1H, s), 7.2-7.6 (4H, m).

reactant | 3-bromobenzaldehyde | 82.20 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | methyl-4-nitrobutyrate | 65.3 g | COC(CCC[N+](=O)[O-])=O | C5H9NO4
reactant | ammonium acetate | 68.5 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | trans-6-(3-Bromo-phenyl)-5-nitro-piperidin-2-one | 97.46 g | BrC=1C=C(C=CC1)[C@H]1[C@@H](CCC(N1)=O)[N+](=O)[O-] | C11H11BrN2O3
